US05639778
Step C: trans-(4-Benzyl-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinolin-7-yl)-methanol (48 Chart E).
A solution of trans-4-benzyl-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinolin-7-carboxylic acid methyl ester (1.9 g, 5.67 mmol) in 50 mL of dry diethyl ether was cooled to 0° C. Solid lithium aluminum hydride (1.5 g, 39.5 mmol) was then added in small portions. The mixture was stirred for 1 hour at 0° C. The reaction was then terminated by the addition of water (1 mL), 15% sodium hydroxide solution (1 mL) and finally water (3 mL). The resulting mixture was filtered through a pad of Celite, dried (magnesium sulfate) and evaporated to dryness. The residue was chromatographed on a silica column with methanol:dichloromethane (1:19 (v/v)) as eluant. The solvents from the collected fractions containing pure 48 were evaporated yielding 1.5 g (86%) as an oil.

reactant | trans-4-benzyl-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinolin-7-carboxylic acid methyl ester | 5.67 mmol, 1.9 g | COC(=O)C1=CC=CC=2[C@@H]3CCCN([C@H]3CCC21)CC2=CC=CC=C2 | C22H25NO2
reactant | lithium aluminum hydride | 39.5 mmol, 1.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | trans-(4-Benzyl-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinolin-7-yl)-methanol | C(C1=CC=CC=C1)N1CCC[C@H]2C3=C(CC[C@H]12)C(=CC=C3)CO | C21H25NO
